US07560558B2
Compound 74: {2-[(6,7-Dimethoxy-4-quinolyl)oxy]-5-methoxyphenyl}-(phenyl)methanone
A mixture of 4-chloro-6,7-dimethoxyquinoline (93 mg) with 2-hydroxy-5-methoxybenzophenone (462 mg) was stirred at 180° C. for 9 hr. The reaction solution was cooled to room temperature and was purified by column chromatography on silica gel using acetone-hexane to give the title compound (14 mg, yield 8%).

reactant | 4-chloro-6,7-dimethoxyquinoline | 93 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 2-hydroxy-5-methoxybenzophenone | 462 mg | OC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)OC | C14H12O3
product | {2-[(6,7-Dimethoxy-4-quinolyl)oxy]-5-methoxyphenyl}-(phenyl)methanone | 14 mg, yield 8% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)OC)C(=O)C1=CC=CC=C1 | C25H21NO5
